US07635715B2
Step C: Preparation of N-((4-Hydroxy-7-(methyloxy)-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine
A mixture of 1,1-dimethylethyl N-((4-hydroxy-7-methoxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate (0.36 g, 0.9 mmol) in 2 mL TFA was stirred at room temperature for 30 minutes, M+1=362, M−1=360. The mixture was concentrated and then triturated in DCM/hexane (5:10). The solid was filtered, washed with 10 mL DCM/hexane (5:10), and dried under high vacuum to give 0.3 g of the product as an off-white solid. MS (m/z)=362 (M+H)+. Calculated for C18H19NO7 361.12.

reactant | 1,1-dimethylethyl N-((4-hydroxy-7-methoxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate | 0.9 mmol, 0.36 g | OC1=C(C(C2(CCOCC2)C2=CC(=CC=C12)OC)=O)C(=O)NCC(=O)OC(C)(C)C | C22H27NO7
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((4-Hydroxy-7-(methyloxy)-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine | 0.3 g | OC1=C(C(C2(CCOCC2)C2=CC(=CC=C12)OC)=O)C(=O)NCC(=O)O | C18H19NO7
